US08633175B2
Step 1: Methyl 3-bromobenzenecarboximidoate hydrochloride
A solution of m-bromobenzonitrile (1.82 g; 10 mmol) in MeOH (20 mL) at 0° C. was sparged with HCl gas for 30 min, the reaction flask was stoppered and aged in a refrigerator (ca. 5° C.) for 3 h. The mixture was sparged with N2 to remove excess HCl, concentrated in vacuo (2×PhMe chase) and dried under high vacuum ca. 45 min, affording the title compound as a colorless solid which was used directly for Step 2 below. LC/MS (method A) tR 0.81 min, m/z 214, 216 (M+H, Br isotopes).

reactant | m-bromobenzonitrile | 10 mmol, 1.82 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | HCl | Cl | ClH
reactant | MeOH | 20 mL | CO | CH4O
product | Methyl 3-bromobenzenecarboximidoate hydrochloride | Cl.BrC=1C=C(C=CC1)C(OC)=N | InChI=1S/C8H8BrNO.ClH/c1-11-8(10)6-3-2-4-7(9)5-6;/h2-5,10H,1H3;1H
